US08202873B2
4-(1,3-Dimethyl-1H-pyrazol-4-ylmethyl)-3′-(3-trifluoromethoxyphenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine
Charge a carousel tube with 3-(trifluoromethoxy)benzeneboronic acid (140 mg, 0.68 mmol), 3′-chloro-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (173 mg, 0.56 mmol) and N,N-dimethylacetamide (1 mL). Add N,N-dimethylacetamide (3 mL) and potassium carbonate (190 mg, 1.35 mmol) and purge with nitrogen for about 45 min. Add water (2 mL, purged with nitrogen for 1 hr.), then tetrakis(triphenylphosphine)palladium(0) (0.004 g, 0.0034 mmol), purge the reaction for about 30 min., and then heat overnight at 110° C. Cool to room temperature, add water and extract with DCM (3×30 mL). Concentrate the combined DCM extracts and purify using silica gel chromatography followed by reverse phase HPLC to give the title compound (0.087 g, 30%). MS (ES): m/z=433.1 [M+H]+.

reactant | 3-(trifluoromethoxy)benzeneboronic acid | 0.68 mmol, 140 mg | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
reactant | 3′-chloro-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.56 mmol, 173 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1)C)C | C14H19ClN6
reactant | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
reactant | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
reactant | potassium carbonate | 1.35 mmol, 190 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0034 mmol, 0.004 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 2 mL | O | H2O
product | 4-(1,3-Dimethyl-1H-pyrazol-4-ylmethyl)-3′-(3-trifluoromethoxyphenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine | 0.087 g, 30% | CN1N=C(C(=C1)CN1CCN(CC1)C1=NC=CN=C1C1=CC(=CC=C1)OC(F)(F)F)C | C21H23F3N6O
